US05348976
Synthesis of N1 -[1-(5-chloro-2-benzofuranyl)ethyl]-N2 -(N-methylanilinocarbonyl)-L-valinamide (Compound No. 151)
0.34 g of N-methylmorpholine and 0.57 g of N-methyl-N-phenylcarbamoyl chloride were successively added to a solution containing 1.1 g of N-[1-(5-chloro-2-benzofuranyl)ethyl]-2-amino-3-methylbutanamide hydrochloride dissolved in 30 ml of dichloromethane, at -15° C. The mixture was allowed to sit and warm naturally to room temperature and then stirred for 15 hours at room temperature. Water was subsequently added to the reaction mixture. After the dichloromethane layer was washed with water, the organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residual crude crystal was purified by column chromatography on silica gel, thus obtaining 1.1 g of the desired product in the form of a white powder.

reactant | N-methylmorpholine | 0.34 g | CN1CCOCC1 | C5H11NO
reactant | N-methyl-N-phenylcarbamoyl chloride | 0.57 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | N-[1-(5-chloro-2-benzofuranyl)ethyl]-2-amino-3-methylbutanamide hydrochloride | 1.1 g | Cl.ClC=1C=CC2=C(C=C(O2)C(C)NC(C(C(C)C)N)=O)C1
reactant | Water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N1 -[1-(5-chloro-2-benzofuranyl)ethyl]-N2 -(N-methylanilinocarbonyl)-L-valinamide | 1.1 g | ClC=1C=CC2=C(C=C(O2)C(C)NC([C@@H](NC(=O)N(C2=CC=CC=C2)C)C(C)C)=O)C1 | C23H26ClN3O3
